US06110934
6-Amino-2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydroisoquinoline
A solution of 6-amino-1,2,3,4-tetrahydroisoquinoline (0.74 g, 5 mmol) in 1,4-dioxan (50 ml) containing 5M-NaOH (1 ml) was stirred at 5° C. and treated with di-t-butyl dicarbonate (1.09 g, 5 mmol). After 20 min at room temperature the product was extracted with ethyl acethate and the material in the organic layer gave a brown gum which was chromatographed on Kieselgel 60 in 5% methanol:dichloromethane. The title compound was obtained as a pale gum (0.55 g).

reactant | 6-amino-1,2,3,4-tetrahydroisoquinoline | 5 mmol, 0.74 g | NC=1C=C2CCNCC2=CC1 | C9H12N2
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 5 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydroisoquinoline | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
